US07465731B2
To a solution of tert-butyl 4-({5-[(1E)-3-ethoxy-3-oxo-1-propen-1-yl]-2-pyridyl}amino)-1-piperidinecarboxylate (2.8 g) in EtOH (20 ml) was added 4N HCl in dioxane (18.6 ml), the mixture was stirred at 23° C. for 30 minutes. The precipitate was collected, washed with IPE, dried under reduced pressure to give ethyl (2E)-3-[6-(4-piperidylamino)-3-pyridyl]acrylate dihydrochloride.

reactant | tert-butyl 4-({5-[(1E)-3-ethoxy-3-oxo-1-propen-1-yl]-2-pyridyl}amino)-1-piperidinecarboxylate | 2.8 g | C(C)OC(/C=C/C=1C=CC(=NC1)NC1CCN(CC1)C(=O)OC(C)(C)C)=O | C20H29N3O4
reactant | HCl | 4N | Cl | ClH
solvent | EtOH | 20 ml | CCO | C2H6O
solvent | dioxane | 18.6 ml | O1CCOCC1 | C4H8O2
product | ethyl (2E)-3-[6-(4-piperidylamino)-3-pyridyl]acrylate dihydrochloride | Cl.Cl.N1CCC(CC1)NC1=CC=C(C=N1)/C=C/C(=O)OCC | InChI=1S/C15H21N3O2.2ClH/c1-2-20-15(19)6-4-12-3-5-14(17-11-12)18-13-7-9-16-10-8-13;;/h3-6,11,13,16H,2,7-10H2,1H3,(H,17,18);2*1H/b6-4+;;
